US04340598
In 20 ml of glacial acetic acid was dissolved 1.2 g of methyl 1-benzyl-2-phenylimidazole-5-acetate, and 20 ml of fuming nitric acid (specific gravity of 1.52) was added to the solution, followed by stirring at room temperature for 2 hours. The reaction solution was poured into 1 l of ice water, neutralized with sodium bicarbonate, and extracted with three 100 ml portions of ethyl acetate. The ethyl acetate layers were combined and evaporated to dryness under reduced pressure, followed by chromatographing on a column of 50 g of silica gel to thereby elute with benzene-ethyl acetate (1:1). The fractions of the objective compound were collected and evaporated to dryness under reduced pressure, yielding 1.25 g of methyl 1-(4-nitrobenzyl)-2-phenylimidazole-5-acetate as colorless crystals. Recrystallization of a part of the compound from benzene-hexane afforded the crystals, m.p. 113°-116° C.

reactant | methyl 1-benzyl-2-phenylimidazole-5-acetate | 1.2 g | C(C1=CC=CC=C1)N1C(=NC=C1CC(=O)OC)C1=CC=CC=C1 | C19H18N2O2
reactant | nitric acid | 20 ml | [N+](=O)(O)[O-] | HNO3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | methyl 1-(4-nitrobenzyl)-2-phenylimidazole-5-acetate | 1.25 g | [N+](=O)([O-])C1=CC=C(CN2C(=NC=C2CC(=O)OC)C2=CC=CC=C2)C=C1 | C19H17N3O4
